US05362742
A mixture of 3-amino-4-(2-chlorophenyl)-6,8dimethylquinoline (1.0 g), triethylamine (2 drops) and benzene (5 ml) was heated to 70° C., and diketene (0.25 ml) was dropwise added thereto. The mixture was further heated at 70° C. for 30 minutes, and then, dimethylsulfoxide (15 ml) and 2-aminothiophenol (0.4 g) were added thereto. The resultant mixture was heated at 130° C. for an hour, diluted with water and extracted with ethyl acetate. The ethyl acetae layer was washed with a solution of salt and dried (MgSO4). The solvent was removed and the residue was purified by a silica gel column chromatography with hexane-ethyl acetate (3:l,V/V), and then crystallized from ethyl acetate-ethyl ether to give 4-(2-chlorophenyl)-6,8-dimethyl-3-(3-methyl-4H-1,4-benzothiazin-2-carbonyl) aminoquinoline (0.39 g, 26%) as yellowish prisms.

reactant | 3-amino-4-(2-chlorophenyl)-6,8dimethylquinoline | 1.0 g | NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C17H15ClN2
reactant | benzene | 5 ml | C1=CC=CC=C1 | C6H6
reactant | diketene | 0.25 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 2-aminothiophenol | 0.4 g | NC1=C(C=CC=C1)S | C6H7NS
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-(2-chlorophenyl)-6,8-dimethyl-3-(3-methyl-4H-1,4-benzothiazin-2-carbonyl) aminoquinoline | 0.39 g, 26% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(=O)C=1SC2=C(NC1C)C=CC=C2 | C27H22ClN3OS
